US09290511B2
Tert-butyl 5-[4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]oxy-2-azabicyclo[2.2.1]heptane-2-carboxylate (269 mg, 0.503 mmol) was dissolved in DCM (2 mL) and trifluoroacetic acid (2 mL). The mixture was stirred at room temperature for 2 hrs and then evaporated. The residue was dissolved in water (2 mL) and DCM (2 mL). Solid sodium bicarbonate was added to neutralize the remaining acid. The layers were separated and the aqueous was extracted with DCM (2×2 mL). The combined organic layers were evaporated to give a brown solid. This was purified by preparative HPLC (acidic method 1). Fractions containing the target compound (by LCMS) were combined and evaporated. The residue was dissolved in methanol and applied to an SCX cartridge (2 g, equilibrated with methanol). The cartridge was washed with methanol (2 column volumes) then 0.5 M ammonia in methanol (2 column volumes). The ammonia solution was evaporated to give 8-[2-(2-azabicyclo[2.2.1]heptan-5-yloxy)-5-phenyl-thieno[2,3-d]pyrimidin-4-yl]-3-oxa-8-azabicyclo[3.2.1]octane as a white solid (6 mg). LCMS RT=3.16 min. M+1=435.

reactant | Tert-butyl 5-[4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]oxy-2-azabicyclo[2.2.1]heptane-2-carboxylate | 0.503 mmol, 269 mg | C12COCC(CC1)N2C=2C1=C(N=C(N2)OC2C3CN(C(C2)C3)C(=O)OC(C)(C)C)SC=C1C1=CC=CC=C1 | C29H34N4O4S
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 8-[2-(2-azabicyclo[2.2.1]heptan-5-yloxy)-5-phenyl-thieno[2,3-d]pyrimidin-4-yl]-3-oxa-8-azabicyclo[3.2.1]octane | 6 mg | C12NCC(C(C1)OC=1N=C(C3=C(N1)SC=C3C3=CC=CC=C3)N3C1COCC3CC1)C2 | C24H26N4O2S
